US07612212B2
To an argon degassed and dried flask was added (2S,3S)-2-amino-N-(2-fluoro-4-iodo-phenyl)-3-phenyl-butyramide (796 mg, 1.99 mmol), zinc cyanide (352 mg, 2.99 mmol), tetrakis-triphenylphosphine palladium (0) (116 mg, 0.1 mmol) and dry tetrahydrofuran (4 mL). After heating at 80° C. for 8 hours there was no reaction. To the cooled mixture was added 2-dicylohexylphosphino-2′-6′-dimethoxybiphenyl (42 mg, 0.1 mmol) and the reaction mixture heated again to 80° C. for 90 minutes, again no reaction occurred. To the cooled mix was added triethylamine (840 μl, 5.99 mmol) and the reaction mixture heated at 80° C. for 2 hours, again no reaction occurred. To the cooled mix was added 2-dicylohexylphosphino-2′-6′-dimethoxybiphenyl (84 mg, 0.2 mmol) and still no reaction occurred after 2 hours at 85° C. To the cooled mix was added rac-2-2′-bis(diphenylphosphino)-1-1′binaphthyl (125.6 mg, 0.2 mmol) and dry toluene (2 mL). After heating at 85° C. for 40 hours the reaction mix was dissolved in ethyl acetate (50 mL) and washed with 1.5 N aqueous potassium hydrogen sulfate solution, saturated aqueous sodium bicarbonate solution and the aqueous layers were back extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulfate and concentrated. The crude residue was purified by chromatography over silica gel gradient eluted from 5 to 15% v/v ethyl acetate in hexanes to give (2S,3S)-2-amino-N-(4-cyano-2-fluoro-phenyl)-3-phenyl-butyramide as a yellow residue after concentration of the product containing fractions (120 mg, 20.2% yield).

reactant | (2S,3S)-2-amino-N-(2-fluoro-4-iodo-phenyl)-3-phenyl-butyramide | 1.99 mmol, 796 mg | N[C@H](C(=O)NC1=C(C=C(C=C1)I)F)[C@@H](C)C1=CC=CC=C1 | C16H16FIN2O
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 5.99 mmol, 840 μl | C(C)N(CC)CC | C6H15N
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 2.99 mmol, 352 mg | [C-]#N.[Zn+2].[C-]#N
product | (2S,3S)-2-amino-N-(4-cyano-2-fluoro-phenyl)-3-phenyl-butyramide | 20.2% yield | N[C@H](C(=O)NC1=C(C=C(C=C1)C#N)F)[C@@H](C)C1=CC=CC=C1 | C17H16FN3O
